US08048887B2
1-(2-Methyloxazol-4-yl)cyclopropanamine
2-Methyloxazole-4-carbonitrile (5 g, 46.1 mmol, 1 eq) was dissolved in dry THF at room temperature, and to which titanium(IV) isopropoxide (16 ml, 655 mmol, 1.2 eq) was added dropwise over a period of 15 minutes. The resulting mixture was stirred for 10 min and ethyl magnesium bromide (85 ml, 17 volumes) was added slowly dropwise at ambient temperature and the reaction was stirred for 1 h. Later BF3.etherate (16.7 ml, 115 mmol, 2.5 eq) was added slowly at ambient temperature and the above solution was stirred at ambient temperature for 3 h. Finally water was added and the pH was brought to 10 using 10% sodium hydroxide solution. The reaction mixture was extracted with dichloromethane, concentrated and purified by combiflash chromotography. Yield: 1.5 g (20%). 1H NMR (400 MHz, DMSO-d6): δ 0.93 (m, 2H), 1.00 (m, 2H), 1.98 (br s, 2H), 2.39 (s, 3H), 7.33 (s, 1H). LCMS: (ES+) m/z=138.9 (M+H).

reactant | 2-Methyloxazole-4-carbonitrile | 46.1 mmol, 5 g, 1 eq | CC=1OC=C(N1)C#N | C5H4N2O
reactant | ethyl magnesium bromide | 85 ml | C(C)[Mg]Br
reactant | BF3 | B(F)(F)F | BF3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | titanium(IV) isopropoxide | 655 mmol, 16 ml, 1.2 eq | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | O | H2O
product | 1-(2-Methyloxazol-4-yl)cyclopropanamine | CC=1OC=C(N1)C1(CC1)N | C7H10N2O
